US07611692B2
A. Synthesis (3β,5β)-3-Amino-12-oxocholan-24-oic acid, (B) (FIG. 3A)
A 1 M solution of NaOH (6.6 mL; 6.6 mmol) was added dropwise to a solution of (3β,5β)-3-amino-12-oxocholan-24-oic acid methyl ester A (2.1 g; 5.1 mmol) in MeOH (15 mL) at 45° C. After 3 h stirring at 45° C., the mixture was concentrated to 25 mL then H2O (25 mL) and 1 M HCl (8 mL) were added. The precipitated solid was filtered, washed with H2O (2×30 mL) and vacuum dried to give B as a white solid (1.7 g; 4.4 mmol). Yield 88%.

reactant | NaOH | 6.6 mmol, 6.6 mL | [OH-].[Na+]
reactant | (3β,5β)-3-amino-12-oxocholan-24-oic acid methyl ester | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3CC([C@]12C)=O)N)=O | C25H41NO3
solvent | MeOH | 15 mL | CO | CH4O
product | (3β,5β)-3-Amino-12-oxocholan-24-oic acid | Yield 88% | N[C@@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(C(C[C@@H]3[C@]2(CC1)C)=O)C | C24H39NO3
